US05998433
b) Synthesis of N,N-dimethyl-[5-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.189 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. After this reaction mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.189 g | CN(C)CC1=CC=2CN(CCC2O1)C(=O)OCCCCC1=CC=CC=C1 | C21H28N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[5-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(=O)OCCCCC1=CC=CC=C1 | InChI=1S/C21H28N2O3.ClH/c1-22(2)16-19-14-18-15-23(12-11-20(18)26-19)21(24)25-13-7-6-10-17-8-4-3-5-9-17;/h3-5,8-9,14H,6-7,10-13,15-16H2,1-2H3;1H
